US07919504B2
To a stirred mixture of (±)-cis-tert-butyl 2-((5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamoyl)-3-phenylpyrrolidine-1-carboxylate (54 mg, 0.11 mmol) in DCM (3.0 mL) was added TFA (3.0 mL). The mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated. The crude residue was purified by flash column chromatography (eluting with a gradient of DCM to DCM containing 5% of 10% MeOH in ammonia) to provide (±)-cis-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpyrrolidine-2-carboxamide as a white solid (3.0 mg, 7%). LCMS (M+H) 402.2 calc. for C22H20N5OS 402.1. 1H NMR (400 MHz, CDCl3): δ ppm 9.23 (s, 1H) 8.55 (d, J=4.89 Hz, 1H) 8.08-8.29 (m, 2H) 7.97 (d, J=7.63 Hz, 1H) 7.65 (d, J=5.48 Hz, 1H) 7.15-7.24 (m, 5H) 4.42-4.87 (m, 1H) 3.89 (d, J=5.48 Hz, 1H) 3.56-3.72 (m, 1H) 3.35-3.51 (m, 1H) 2.18-2.54 (m, 2H). 2H obscured.

reactant | (±)-cis-tert-butyl 2-((5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)carbamoyl)-3-phenylpyrrolidine-1-carboxylate | 0.11 mmol, 54 mg | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NC(=O)[C@@H]1N(CC[C@@H]1C1=CC=CC=C1)C(=O)OC(C)(C)C | C27H27N5O3S
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-N-(5-(isoquinolin-6-yl)-1,3,4-thiadiazol-2-yl)-3-phenylpyrrolidine-2-carboxamide | 3.0 mg, 7% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(S1)NC(=O)[C@@H]1NCC[C@@H]1C1=CC=CC=C1 | C22H19N5OS
